US08497264B2
In a 150-mL resealable vessel, the crude (S)-2′-bromo-4′-fluoro-7′-methoxyspiro[morpholine-3,9′-xanthene]-5-thione (1.0 g, 2.437 mmol) was dissolved in a dioxane solution of ammonia (0.5 M, 58.5 mL, 29.2 mmol). Mercury (II) chloride (0.993 g, 3.66 mmol) was added, and the vessel was sealed and heated in a 55° C. oil bath overnight. The mixture was then cooled and concentrated. The residue was filtered through Celite, rinsing with 10% MeOH-DCM (400 mL). The filtrate was concentrated, and the residue was purified through silica gel (150 mL) using 7.5% MeOH-DCM to afford 131 mg of (S)-2′-bromo-4′-fluoro-7′-methoxy-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthen]-5-amine

reactant | (S)-2′-bromo-4′-fluoro-7′-methoxyspiro[morpholine-3,9′-xanthene]-5-thione | 2.437 mmol, 1.0 g | BrC1=CC=2[C@]3(C4=CC(=CC=C4OC2C(=C1)F)OC)NC(COC3)=S | C17H13BrFNO3S
reactant | ammonia | 29.2 mmol, 0.5 M, 58.5 mL | N | H3N
solvent | dioxane | O1CCOCC1 | C4H8O2
catalyst | Mercury (II) chloride | 3.66 mmol, 0.993 g | [Hg](Cl)Cl
product | (S)-2′-bromo-4′-fluoro-7′-methoxy-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthen]-5-amine | 131 mg | BrC1=CC=2[C@@]3(C4=CC(=CC=C4OC2C(=C1)F)OC)COCC(=N3)N | C17H14BrFN2O3
